US07786165B2
methyl(6-{[(2-nitrophenyl)sulfonyl]amino}-1-benzofuran-3-yl)acetate
(6-{[(2-Nitrophenyl)sulfonyl]amino}-1-benzofuran-3-yl)acetic acid (2.84 g, 7.55 mmol) was suspended in methanol (8 mL), and thionyl chloride (2 mL, 27.4 mmol) was added dropwise under ice-cooling. After completion of the dropwise addition, the mixture was stirred at room temperature for 2.5 hr. The reaction mixture was concentrated under reduced pressure. Water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-60% ethyl acetate/hexane), and the obtained solid was recrystallized from ethyl acetate-hexane to give the title compound (1.82 g, yield 62%) as yellow prism crystals.

reactant | (6-{[(2-Nitrophenyl)sulfonyl]amino}-1-benzofuran-3-yl)acetic acid | 7.55 mmol, 2.84 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC2=C(C(=CO2)CC(=O)O)C=C1 | C16H12N2O7S
reactant | thionyl chloride | 27.4 mmol, 2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 8 mL | CO | CH4O
product | methyl(6-{[(2-nitrophenyl)sulfonyl]amino}-1-benzofuran-3-yl)acetate | 1.82 g, yield 62% | COC(CC1=COC2=C1C=CC(=C2)NS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])=O | C17H14N2O7S
